US04436748
To a solution of 5.0 g of 6,7-dichloro-5-methoxybenzo[b]thiophene in 30 ml of dry tetrahydrofuran and 10 ml dry ethyl ether under nitrogen at -20° is added 11.7 ml of 2.2 M n-butyllithium, while the temperature is maintained at -20°. After stirring for 2 hours at this temperature, the reaction mixture is added dropwise through a transfer needle to a stirred solution of 22 ml of freshly distilled acetic anhydride in 40 ml of dry tetrahydrofuran at -20°. Five minutes after the addition, the reaction mixture is poured onto 100 ml 10% hydrochloric acid. The mixture is extracted twice with dichloromethane, the organic layers are collected and dried and the solvent is removed to give a solid. The solid is washed with ethyl ether to give 1.5 g of 2-acetyl-6,7-dichloro-5-methoxybenzo[b]thiophene as a fluffy solid. Recrystallization of the residue obtained by evaporation of the filtrate from ethyl ether-hexane gives an additional 0.6 g of 2-acetyl-6,7-dichloro-5-methoxybenzo[b]thiophene.

reactant | 6,7-dichloro-5-methoxybenzo[b]thiophene | 5.0 g | ClC=1C(=CC2=C(SC=C2)C1Cl)OC | C9H6Cl2OS
reactant | n-butyllithium | 2.2 M, 11.7 ml | C(CCC)[Li]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-acetyl-6,7-dichloro-5-methoxybenzo[b]thiophene | 1.5 g | C(C)(=O)C1=CC2=C(S1)C(=C(C(=C2)OC)Cl)Cl | C11H8Cl2O2S
